US06777418B2
7-Acetoxy-3-bromo-2-formyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene (0.3 g, 0.849 mmol) from the preceding reaction was dissolved in 2 mL of benzene. Ethylene glycol (0.104 mL, 1.87 mmol) and p-toluenesulfonic acid monohydrate (0.024 g, 0.127 mmol) were added. A Dean-Stark apparatus was attached to the reaction flask and the reaction was brought to reflux for several hours. When the reaction was judged complete by TLC (SiO2, 20% ethyl acetate/hexanes), dichloromethane (25 mL) and sodium bicarbonate solution (50 mL) were added and the layers were separated. The aqueous layer was extracted one more time with dichloromethane. The combined organic layers were washed with brine, dried over sodium sulfate and concentrated to give 7-Acetoxy-3-bromo-2-(1,3-dioxolane-2-yl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene as an oily residue that was used directly in the next step.

reactant | 7-Acetoxy-3-bromo-2-formyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene | 0.849 mmol, 0.3 g | C(C)(=O)OC1CC(C=2C=C(C(=CC2C1(C)C)C=O)Br)(C)C | C17H21BrO3
reactant | Ethylene glycol | 1.87 mmol, 0.104 mL | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 0.127 mmol, 0.024 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | benzene | 2 mL | C1=CC=CC=C1 | C6H6
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 7-Acetoxy-3-bromo-2-(1,3-dioxolane-2-yl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene | C(C)(=O)OC1CC(C=2C=C(C(=CC2C1(C)C)C1OCCO1)Br)(C)C | C19H25BrO4
